US04414214
12.7 g (95 mmol) of aluminium trichloride in 80 ml of 1,2-dichloroethane are stirred under nitrogen and cooled to 3°. 13.35 g (95 mmol) of benzoyl chloride are added. At 3°, this red solution is added dropwise over a period of 25 minutes to a solution of 12.55 g (80.3 mmol) of 1,2-dimethoxy-4-fluorobenzene (4-fluoroveratrole) in 80 ml of 1,2-dichloroethane. The reaction mixture is stirred for a further 3 hours at 3°, then for 31/2 hours at room temperature and then poured onto a mixture of 250 ml of ice and 20 ml of concentrated hydrochloric acid. The organic phase is separated off and the aqueous phase is extracted several times with ether. Organic phase and ether solutions are combined, washed with 1 N sodium hydroxide solution, water and with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The resulting yellow oil is stirred with 50 ml of ether in an ice bath until crystallisation takes place, yielding the desired (4,5-dimethoxy-2-fluorophenyl)-phenylmethanone in the form of white crystals having a melting point of 102°-103°.

reactant | aluminium trichloride | 95 mmol, 12.7 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | benzoyl chloride | 95 mmol, 13.35 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1,2-dimethoxy-4-fluorobenzene | 80.3 mmol, 12.55 g | COC1=C(C=C(C=C1)F)OC | C8H9FO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | (4,5-dimethoxy-2-fluorophenyl)-phenylmethanone | COC1=CC(=C(C=C1OC)C(=O)C1=CC=CC=C1)F | C15H13FO3
